US05359098
6-Piperidinyl-2-(2-thienyl)-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 11 from 2',5'-dihydroxyacetophenone, -thiophenecarbonyl chloride, 1-bromo-6-chlorohexane, and piperidine: mp 184°-185° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | thiophenecarbonyl chloride | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | piperidine | N1CCCCC1 | C5H11N
product | 6-Piperidinyl-2-(2-thienyl)-4H-1-benzopyran-4-one hydrochloride | Cl.N1(CCCCC1)C=1C=CC2=C(C(C=C(O2)C=2SC=CC2)=O)C1 | InChI=1S/C18H17NO2S.ClH/c20-15-12-17(18-5-4-10-22-18)21-16-7-6-13(11-14(15)16)19-8-2-1-3-9-19;/h4-7,10-12H,1-3,8-9H2;1H
